US07157286B2
An aldehyde was introduced into the monoclonal antibody 22-1-1 obtained in Example 1 by oxidation with sodium metaperiodate, which was bound with biotin hydrazide to obtain a biotinated antibody. Specifically, 1 ml of an ice-cooled metaperiodic acid solution was added to 1 ml of the ice-cooled monoclonal antibody 22-1-1, which was mixed well and subjected to an oxidation reaction in the dark place at 0° C. for 30 minutes. Thereafter, glycerol was added thereto to the final concentration of 15 mM, which was incubated at 0° C. for 5 minutes to stop the oxidation reaction. This solution was dialyzed against a 0.1M sodium acetate buffer (pH5.5) overnight, and biotin hydrazide was added to the final concentration of 5 mM to stir at room temperature for 2 hours. The unreacted molecules were removed from this by dialysis to obtain a biotin-labeled antibody.

reactant | biotin hydrazide | C(CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12)(=O)NN | C10H18N4O2S
reactant | metaperiodic acid | I(=O)(=O)(=O)O | HIO4
solvent | glycerol | OCC(O)CO | C3H8O3
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
